US07846960B2
[4-Cyclopropyl-2-(2,6-dichloro-phenyl)-2H-pyrazol-3-yl]-methanol
To a 0° C. mixture of LAH powder in THF (20 mL) is added a solution of 4-cyclopropyl-2-(2,6-dichloro-phenyl)-2H-Pyrazole-3-carboxylic acid ethyl ester (2.4 mmol, 0.8 g) in THF (10 mL). The reaction is stirred for 2 h at 0° C. The reaction is quenched with a sequence of water (0.26 mL), 5N NaOH (0.26 mL) and water (0.78 mL). The reaction mixture is stirred for 1 h at 0° C. The reaction is filtered and the filtrate is adsorbed onto silica gel and purified using a gradient of 30-50% EtOAc/Hexanes to yield the title compound (0.36 g, 53%). LC-ES/MS m/e 283.0 (M+1).

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-cyclopropyl-2-(2,6-dichloro-phenyl)-2H-Pyrazole-3-carboxylic acid ethyl ester | 2.4 mmol, 0.8 g | C(C)OC(=O)C=1N(N=CC1C1CC1)C1=C(C=CC=C1Cl)Cl | C15H14Cl2N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [4-Cyclopropyl-2-(2,6-dichloro-phenyl)-2H-pyrazol-3-yl]-methanol | 0.36 g, 53% | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1Cl)Cl)CO | C13H12Cl2N2O
